US07001897B2
To a solution of 1-{4-[(1S)-1-(t-butyldimethylsilyloxymethyl)-3-methylbutylcarbamoyl]-1,3-thiazol-2-yl}-3-hydroxyazetidine (730 mg, 1.76 mmol) (obtained as described in Reference Example 37(4)) in methylene chloride (37 ml) were added methanesulfonyl chloride (409 μl, 5.29 mmol) and triethylamine (741 μl, 5.29 mmol) in an ice bath. After stirring the mixture in the ice bath for 10 minutes, the mixture was stirred at room temperature for 1.5 hours. After checking the completion of the reaction, the reaction mixture was partitioned between ethyl acetate and saturated aqueous sodium hydrogencarbonate solution. The organic layer was washed with saturated aqueous sodium chloride solution, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The residue was purified by chromatography on a silica gel column using n-hexane:ethyl acetate (2:1→1:2) as the eluant to afford 1-{4-[(1S)-1-(t-butyldimethylsilyloxymethyl)-3-methylbutylcarbamoyl]-1,3-thiazol-2-yl}-3-methanesulfonyloxyazetidine (846 mg, yield 98%) as a pale yellow oil.

reactant | 1-{4-[(1S)-1-(t-butyldimethylsilyloxymethyl)-3-methylbutylcarbamoyl]-1,3-thiazol-2-yl}-3-hydroxyazetidine | 1.76 mmol, 730 mg | [Si](C)(C)(C(C)(C)C)OC[C@H](CC(C)C)NC(=O)C=1N=C(SC1)N1CC(C1)O | C19H35N3O3SSi
reactant | methanesulfonyl chloride | 5.29 mmol, 409 μl | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 5.29 mmol, 741 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 37 ml | C(Cl)Cl | CH2Cl2
product | 1-{4-[(1S)-1-(t-butyldimethylsilyloxymethyl)-3-methylbutylcarbamoyl]-1,3-thiazol-2-yl}-3-methanesulfonyloxyazetidine | 846 mg, yield 98% | [Si](C)(C)(C(C)(C)C)OC[C@H](CC(C)C)NC(=O)C=1N=C(SC1)N1CC(C1)OS(=O)(=O)C | C20H37N3O5S2Si
